US09085555B2
C. (2S,3R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-3-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester
The mixture of (2S,3R)-3-methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (60.0 mg, 0.245 mmol), (3-chloro-2-fluorophenyl)methanamine (0.034 mL, 0.269 mmol), HBTU (139 mg, 0.367 mmol) and DIPEA (0.085 mL, 0.489 mmol) in CH2Cl2 (5 mL) was stirred for 20 h at RT. The reaction mixture was then diluted with CH2Cl2, and the organics were washed subsequently with 0.1N aqueous HCl (3×), aqueous NaHCO3 solution (2×) and brine. The organic layers were dried (Phase separator), concentrated in vacuo and the residue was purified by preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 30×100 mm; flow: 40 mL/min; eluent: 5-100% CH3CN/H2O for 20 min, 100% CH3CN for 2 min, CH3CN and H2O containing 0.1% TFA) to afford the title compound as a white solid. MS (LC/MS): 387 [M+H]+, 331 [MH−tBu]+, 287 [MH−Boc]+; tR (HPLC conditions b): 4.26 min.

reactant | (2S,3R)-3-methoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.245 mmol, 60.0 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H](CC1)OC)C(=O)O | C11H19NO5
reactant | (3-chloro-2-fluorophenyl)methanamine | 0.269 mmol, 0.034 mL | ClC=1C(=C(C=CC1)CN)F | C7H7ClFN
reactant | HBTU | 0.367 mmol, 139 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.489 mmol, 0.085 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2S,3R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-3-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H](CC1)OC)C(NCC1=C(C(=CC=C1)Cl)F)=O | C18H24ClFN2O4
